US06602865B1
5-[N-Benzyl-N-(3-chloro propyl)amino]-4-chloro-2-methyl-3(2H)-pyridazinone
To a solution of 10.00 g (32 mmol) of 5-[N-benzyl-N-(3-hydroxypropyl)amino]-4-chloro-2-methyl-3(2H)-pyridazinone in 100 ml of dichloromethane 3.5 ml (5.5 g, 46 mmol) of thionyl chloride are added dropwise while stirring. If necessary, a catalytic amount of 4-(N,N-dimethyl amino)pyridine is added to the solution. The reaction mixture is boiled for 14 hours, then cooled and evaporated. The evaporation residue is triturated with diethyl ether. The crystals are filtered off and washed with diethyl ether. In this way 9.50 g (95%) of the title compound are obtained with a melting point of 92-93° C.

reactant | 5-[N-benzyl-N-(3-hydroxypropyl)amino]-4-chloro-2-methyl-3(2H)-pyridazinone | 32 mmol, 10.00 g | C(C1=CC=CC=C1)N(CCCO)C1=C(C(N(N=C1)C)=O)Cl | C15H18ClN3O2
reactant | dichloromethane | 46 mmol, 100 ml, 5.5 g | ClCCl | CH2Cl2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
catalyst | 4-(N,N-dimethyl amino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
product | 5-[N-Benzyl-N-(3-chloro propyl)amino]-4-chloro-2-methyl-3(2H)-pyridazinone | 9.50 g, 95% | C(C1=CC=CC=C1)N(CCCCl)C1=C(C(N(N=C1)C)=O)Cl | C15H17Cl2N3O
